US04839261
In a one-liter flask equipped with a stirrer and a thermometer was placed 300 ml of methanol. Thereto was added 100 g of 4-vinylstyrene oxide. With keeping the flask inside temperature at 5° to 10° C., 35 g of thiourea was added slowly. The mixture was stirred for 72 hours. After completion of the reaction, methanol was removed by distillation. The concentrate was water-washed to obtain 60 g of 4-vinylstyrene eipsulfide. In the proton NMR spectrum of the product, 4, 1, 1, 1, 1 and 2 protons were observed at δ values of 7.2 to 7.5, 6.65, 5.76, 5.20, 3.95 to 4.15 and 2.8 to 3.0, respectively.

reactant | 4-vinylstyrene oxide | 100 g | C(=C)C1=CC=C(C2CO2)C=C1 | C10H10O
reactant | thiourea | 35 g | NC(=S)N | CH4N2S
solvent | methanol | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | 4-vinylstyrene | 60 g | C(=C)C1=CC=C(C=C)C=C1 | C10H10
